US07615642B2
1-{[2-(1,1-Dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-ethyl-1H-pyrrole-3-carboxamide
Following the same procedure in Example 29, using N-ethyl-1H-pyrrole-3-carboxamide (166 mg, 1.2 mmol) (see the step B in example 31 for preparation), sodium hydride (240 mg, 60%, 6.0 mmol) and 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (385 mg, 1.0 mmol) in THF (20 mL). The crude product was purified by MPLC using EtOAc on silica gel to give 195 mg (40%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.78 (t, J=7.42 Hz, 3 H), 1.13 (t, J=7.23 Hz, 3 H), 1.41-1.56 (m, 4 H), 1.59 (s, 6 H), 1.95 (q, J=7.49 Hz, 2 H), 2.21-2.35 (m, 1 H), 3.24-3.34 (m, 4 H), 3.85-3.94 (m, 2 H), 4.42 (d, J=7.62 Hz, 2 H), 6.65 (dd, J=3.32, 1.76 Hz, 1 H), 7.29 (dd, J=3.32, 2.34 Hz, 1 H), 7.78-7.82 (m, 1 H), 7.92 (d, J=8.8 Hz, 1 H), 7.96 (dd, J=8.8, 1.8 Hz, 1 H), 8.27 (d, J=1.56 Hz, 1 H); MS (ESI) (M+H)+=487.0; Anal. Calcd for C25H34N4O4S+110 TFA+0.1H2O (602.46): C, 53.83; H, 5.89; N, 9.30. Found: C, 53.79; H, 6.00; N, 9.19.

reactant | N-ethyl-1H-pyrrole-3-carboxamide | 1.2 mmol, 166 mg | C(C)NC(=O)C1=CNC=C1 | C7H10N2O
reactant | sodium hydride | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 1.0 mmol, 385 mg | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C18H25ClN2O3S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-{[2-(1,1-Dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-ethyl-1H-pyrrole-3-carboxamide | 195 mg, 40% | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)NCC | C25H34N4O4S
